US04356183
(4R)-3-[(2S)-S-Benzoyl-3-mercapto-2-methylpropanoyl]-2-(2-thienyl)-4-thiazolidinecarboxylic acid (Compound 90)
11.2 g of (2S)-S-benzoyl-3-mercapto-2-methylpropanoic acid and 5.1 g of triethylamine are dissolved in 100 ml of dehydrated tetrahydrofuran. To this solution, 6.8 g of isobutyl chloroformate is added dropwise while stirring at the temperature maintained -5° C. After the addition, the mixture is stirred at room temperature for 10 minutes. To this solution, 10.8 g of (4R)-2-(2-thienyl)-4-thiazolidinecarboxylic acid and 5.1 g of triethylamine dissolved in the mixed solution of 5 ml of tetrahydrofuran and 15 ml of water are added. The mixture is stirred at room temperature for 30 minutes. To this reaction mixture, 200 ml of water is added and the mixture is extracted with ethyl acetate. The aqueous layer is acidified with dilute hydrochloric acid and the produced oil is extracted with ethyl acetate. The ethyl acetate layer is washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give the titled compound, yield 10.3 g (49%), mp. 136°-137° C. (benzene), [α]D25 +79.6° (c=1.0, methanol).

reactant | (2S)-S-benzoyl-3-mercapto-2-methylpropanoic acid | 11.2 g | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)O)C | C11H12O3S
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 6.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (4R)-2-(2-thienyl)-4-thiazolidinecarboxylic acid | 10.8 g | S1C(=CC=C1)C1SC[C@H](N1)C(=O)O | C8H9NO2S2
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | (4R)-3-[(2S)-S-Benzoyl-3-mercapto-2-methylpropanoyl]-2-(2-thienyl)-4-thiazolidinecarboxylic acid | C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1C(SC[C@H]1C(=O)O)C=1SC=CC1)C | C19H19NO4S3
